US06403610B1
0.95 g of potassium carbonate was added to a solution of 0.835 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid hydrochloride in 15 cm3 of anhydrous dimethylformamide, followed by 0.36 cm3 of propargyl bromide. The mixture was stirred under a nitrogen atmosphere at a temperature in the region of 70° C. for 18 hours. 100 cm3 of ethyl acetate and 100 cm3 of distilled water were added to the reaction mixture. The organic phase was separated by settling and then washed with 5 times 40 cm3 of water and 2 times 50 cm3 of a saturated sodium chloride solution. The organic solution was dried over magnesium sulfate, filtered, and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. to maximum concentration. The oil obtained was purified by chromatography on a column of silica gel (particle size 20-45 μm; diameter 2 cm; height 40 cm), elution was carried out, under a nitrogen pressure of 50 kPa, with ethyl acetate, and 50-cm3 fractions were collected. Fractions 17 to 21 were combined and concentrated under reduced pressure (5 kPa) at a temperature of 40° C. 0.300 g of prop-2ynyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)-3-piperidinecarboxylate was obtained in the form of an oil with a yellow color.

reactant | potassium carbonate | 0.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid hydrochloride | 0.835 g | Cl.COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CNCC1)C(=O)O
reactant | propargyl bromide | 0.36 cm3 | C(C#C)Br | C3H3Br
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 cm3 | CN(C=O)C | C3H7NO
solvent | water | 100 cm3 | O | H2O
product | prop-2ynyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)-3-piperidinecarboxylate | 0.300 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#C)C(=O)OCC#C | C25H28N2O3
